Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I ate half a bottle of Tylenol last ___
night."

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Mr. ___ is a  ___ yo M c no
known medical or psychiatric history who self-presented after
waking up after having taken 60 650 mg tablets of Acetaminophen
around 2200 on ___ in an intentional SA/OD in the setting of
psychosocial stressors involving an ongoing financial and legal
dispute between he and his family members. 

Mr. ___ reports a long history of events leading up to his
current hospitalization. Briefly, Mr. ___ invested some money
from the family estate via his brother, ___, some ___ years 
ago.
At this point, the investment had appreciated and then
depreciated substantially; but, during this time, he was paid by
his brother 400,000 as income for his work in managing the
investment. Mr. ___ had then spent that money investing in a
house; but, when the overall investment account had depreciated,
his brother demanded the money back, with interest, having
claimed that it was a loan. Since then, Mr. ___ has been
embroiled in lawsuits with ___, with two of his other 3
brothers ___ and ___ taking ___ side through this process;
and, his mother has essentially stayed out of the whole feud. 

Recently, Mr. ___ was trying to resurrect the case, which he
had originally lost; and, when doing so, found out that his
recent ___, for unknown reasons had tipped off
his brothers and let them know that he was resurrecting the 
case.
He then visited his brother ___ on ___, who has not been
involved in the lawsuits and himself is disabled, and had two
drinks that day. As he was visiting ___, Mr. ___ claims that
his e-mails were hacked, and that he discovered that the 
physical
copies of the files that he was going to use in court were 
either
stolen or replaced with other materials, which essentially
neutralized all of his potential efforts to re-try his case. He
reports that on ___ he drank two beers at his brother ___
house. Later that night of ___, he asked himself "who would
want to live in this kind of world?", and proceeded to ingest 60
650mg tablets of acetaminophen. He then went to sleep 
immediately
after. After waking up at around 3 AM, he felt nauseous, and
asked himself why he did that. He then brought himself to the ED
to seek medical attention. 

Also of note, throughout the interview the patient is very
focused on how he has been lied to and mislead throughout his
hospitalization leading up to this point, and describes a series
of miscommunications that occurred that were deeply upsetting to
him and felt himself to be the victim. 

He states that he is now most concerned about his physical 
health
and has been focused on making sure that his liver recovers 
okay.

Psychiatric ROS: Endorses depressed mood leading up to the 
event;
denies anhedonia, sleep disturbance, changes in appetite or
concentration; denies symptoms of mania, including
distractibility, elevated mood/irritability, social/economic
indiscretion, and decreased need for sleep

Per Dr. ___ ___ Initial Consult note: 
"On interview, patient stated that he took Acetaminophen
intentionally to end his life because of 'a family matter', 
which
he would 'rather not' discuss because it is a 'personal matter'.
He reported considering this plan for about the past week. He
denied prior SA. He expressed that he was relieved that the
attempt had failed, and he denied current SI. He endorsed 
feeling
down for the past couple weeks, which again he related to this
'family matter', but he denied change in sleep, hopelessness,
anhedonia, change in energy/motivation, difficulty c
concentration and HI. Patient clarified that after he woke up
feeling nauseous, he drove himself to the hospital.

Patient denied discrete periods of decreased need for sleep c
concurrent elevated/irritable mood, impulsivity, increased goal
directed/risky behavior, grandiosity, racing thoughts and/or
pressured speech.

Patient denied AVH, IOR, TC/TB/TI, paranoid ideation.

Patient denied anxiety.

Per Dr. ___ ___ Consult Progress note: 
"He tells me about a complicated set of conflicts involving
finances and his family, legal issues with his family, and all 
of
these culminating in his feeling desperate and hopeless,
precipitating his overdose. 

He currently denies suicidal ideation, intent, or plan,
describing a future outlook wanting to try to repair things with
his family, but he relates that this may not be possible with
some of them. "

Collateral:
Declined to provide collateral contacts in the ED or on the
medical unit.
 
Past Medical History:
Past psychiatric history: 
Per Dr. ___ ___ Initial Consult note, confirmed with
patient and updated as relevant: 
Diagnoses: denied
Hospitalizations: denied
Current treaters and treatment: denied
Medication and ECT trials: denied
Self-injury: none prior to current SA/OD
Harm to others: denied
Access to weapons: denied

Past medical history: 
Significant for ascites and bilateral lower extremity edema 
which
were being worked up by his PCP as an outpatient. Per medicine
notes, he reports being worked up at ___ and
___
and told to potentially have fatty liver disease. Also reports
workup with negative HepC. His PCP treated with ___, with
improvement of symptoms 2wks ago.

 
Social History:
Substance use history: 
Alcohol: Occasional beers, does acknowledge drinking two beers
the day of his SA
Recreational: Remote history of MJ and cocaine over ___ years ago
Tobacco: occasional cigar 

Forensic history:  Per Dr. ___ ___ Initial Consult
note, confirmed with patient and updated as relevant:
Denied

Personal and Social History: ___
Family History:
Family psychiatric history: 
Denies, including no family history of SA. 
 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T: 97.7, BP: 161/95, HR: 72, R: 16, O2 sat: 96% on RA

___: Middle-aged male in NAD. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, mild bilateral lower
extremity edema.
Skin: No rashes, abrasions, scars, or lesions. 
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. Sensation: Intact to light touch
throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia 
noted.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: Able to perform DOTWB without error
Orientation: oriented to person, time, place, situation
Memory: Registers ___ words, recalls ___ without prompt, ___ 
with
prompt
Fund of knowledge: Intact to most recent three Presidents
Calculations: correctly states 11 quarters in $2.75
Abstraction: appropriately interprets book/cover
Speech: normal rate, volume, and tone
Language: native ___ speaker,  appropriate to conversation

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, wearing a hospital ___: Calm, cooperative, engaged, pleasant, appropriate eye
contact, no psychomotor agitation or retardation
Mood and Affect: "Excellent" / mood congruent
Thought Process: Tangential, ruminating about family financial
strife, difficult to redirect. No loosening of associations
noted. 
Thought Content: denies SI/HI at this time, does not endorse 
AVH,
difficult to assess for presence of delusional thinking in the
absence of collateral, some possible paranoid delusions around
files being hacked and being lied to by staff but again 
difficult
to assess in the absence of collateral   
Judgment and Insight: poor/poor

 
Pertinent Results:
Labs on admission:
 ___: Na: 140
 ___: K: 4.6
 ___: Cl: 106
 ___: CO2: 22
 ___: BUN: 17
 ___: Creat: 0.8
 ___: Glucose: 107* (If fasting, 70-100 normal, >125
provisional diabetes)
 ___: Ca: 9.1
 ___: Mg: 2.1
 ___: PO4: 3.9
___: WBC: 6.7
 ___: HGB: 13.2*
 ___: HCT: 39.9*
 ___: Plt Count: 187

-Urine tox: Negative
-Serum tox: Acetominophen 153

___ 06:13   
HBsAg HBsAb HBcAb HAV Ab IgM HBc IgM HAV  - all negative 

Labs on day of discharge ___: 
ALT 160 AST 59 Alk Phos 133 T bili 0.3  Albumin 3.7

___ 03:27AM BLOOD ___ PTT-30.5 ___
 
Brief Hospital Course:
Mr. ___ is a  ___ yo M c no known medical or 
psychiatric history who self-presented after waking up after 
having taken 60 650 mg tablets of Acetaminophen
around 2200 on ___ in an intentional SA/OD in the setting of
psychosocial stressors involving an ongoing financial and legal
dispute between he and his family members. 

Hospital Course on Medicine Unit:
"In the ED, labs were significant for negative tox screen, 
except
for APAP 153, with ALT 336, AST 285, INR 1.4. EKG showed sinus 
rhythm with normal intervals. Because the patient endorsed that 
his acetaminophen overdose was a suicide attempt, he was ___. He had significantly elevated LFTs with Continuous
N-acetylcysteine IV was initiated on ___ and continued until
___ when his transaminases dropped to less than 1000 and his 
INR normalized. Viral  hepatitis panel was negative. RUQ Abd U/S
showed steatosis,  although could not rule out steatohepatitis 
or
cirrhosis. Labs  peaked at ALT 1178, AST 686, INR 1.7.
Subsequently down-trended, and NAC was stopped once ALT <1000,
INR 1.5. Subsequently, he  was medically cleared for discharge 
to
an inpatient psychiatric  unit admission. On discharge to
inpatient psychiatric unit, his  labs were as follows: AST 261,
ALT 630, INR 0.9."  Psychiatrically, patient was offered 1 mg 
BID
PRN for agitation/anxiety after an incident in which the patient
became anxious regarding transfer to a psychiatric unit. 

On arrival to Deac 4: 
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.   They were also placed on q15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Delusional Disorder
On arrival to Deac 4, the patient was continued on Ativan 1 mg 
BID PRN agitation, insomnia and agitation, which he did not use. 
He was provided with individual, group, and milieu therapy aimed 
at improving coping strategies. 
The team's impression was that Mr. ___ had a hard time 
accepting versions of facts from clinicians that differed from 
his own version of facts, resulting in his feeling that he was 
being lied to. For example, when reading through notes from the 
medical chart together as a team (done at request of the 
patient), he made comments such as "I never said any of this." 
The team's impression was that the patient's presentation was 
consistent with a delusional disorder, though the patient 
refused permission for the team to speak with family members, 
and it was difficult to assess the extent of possible delusions 
in the absence of any collateral. 

3. MEDICAL
#)s/p Acetaminophen Overdose
The patient's LFTs and coags were monitored and continuously 
trended down throughout his admission, to final values on 
___ of  ALT 160 AST 59 Alk Phos 133 T bili 0.3  Albumin 3.7 
and coags of ___ 9.9  PTT 30.5  Plt Ct ___   0.9.  Per 
medicine service recommendations, these labs should be trended 
until there are three normal values, at which time the patient 
should also be vaccinated for Hep A and Hep B given his negative 
serologies. 
 

4. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient occasionally attended these groups that focused on 
teaching patients various coping skills.  He was visible in the 
milieu, often noted to be chatting with other patients.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT: The patient would 
not give permission for the team to contact his family. 

#) Follow-Up Care: The team offered to make an appointment with 
the patient's PCP on behalf of the patient, which he declined. 
SW made the patient an appointment with a psychotherapist, which 
he also declined. He refused the team's offer to set him up with 
a new PCP, or to assist in making any other follow-up 
appointments. He was willing to accept the hepatology 
appointment which had been set up for him by medicine. He also 
declined to sign a release of information form that would allow 
his discharge summary to be faxed to his PCP, stating that he 
would schedule appointments and request his records on his own. 

RISK ASSESSMENT
On initial presentation after OD, the patient was evaluated and 
felt to be at an increased risk of harm to himself based upon 
static risk factors including recent suicide attempt using 
near-lethal means,  male gender, white race, relationship status 
(divorced),  and modifiable risk factors including paranoia, no 
outpatient treaters,  sense of isolation, and financial 
stressors.  The modifiable risk factors were addressed during 
this hospitalization with the provision of individual, group and 
milieu therapy aimed at improving coping skills.
Throughout his hospitalization, the patient was open and 
engaged, emphatically non-hopeless, and the patient is being 
discharged with many protective risk factors,  including 
future-oriented viewpoint and lack of suicidal ideation at the 
time of discharge.  
Based on the totality of our assessment at this time, the 
patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

PLEASE ALSO SEE INDIVIDUAL NOTES DICTATED BY ___. ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 1 mg PO BID:PRN anxiety, agitation, or insomnia 

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Delusional Disorder (see hospital course section of discharge 
summary for more information) 

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
 *Appearance: Well appearing man, no apparent distress, sitting
comfortably in his chair in hospital gown with pants.
  Behavior: Calm, cooperative, appears somewhat suspicious of
interviewers at times, appropriate eye contact
  *Mood and Affect:'OK'/congruent
  *Thought process: circmustantial, ruminating about family
financial strife and miscommunications that have occurred
throughout his hospital stay. No loosening of associations. 
  *Thought Content: denies SI/HI at this time, does not endorse
AVH, difficult to assess for presence of delusional thinking in
the absence of collateral though there appear to be some 
possible
paranoid delusions around files being hacked and stolen from his
car (he says there is no evidence of forced entry into the car),
and being lied to by staff here in the hospital
  *Judgment and Insight: limited/limited
 Vital signs: T 97.5 BP 135/81  HR 69 RR 17 O2 sat 97 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___